US06780883B2
2-Benzylsulfanyl-N-(4-methoxy-phenyl)-benzamide
The title compound was synthesized by the same procedure as for Example 15, except 2-benzylsulfanyl-benzoic acid and 4-methoxyaniline were used instead of 2-napthoic acid and 4-iodoaniline. M+364.2

reactant | 2-benzylsulfanyl-benzoic acid | C(C1=CC=CC=C1)SC1=C(C(=O)O)C=CC=C1 | C14H12O2S
reactant | 4-methoxyaniline | COC1=CC=C(N)C=C1 | C7H9NO
reactant | 2-napthoic acid | C1=C(C=CC2=CC=CC=C12)C(=O)O | C11H8O2
reactant | 4-iodoaniline | IC1=CC=C(N)C=C1 | C6H6IN
product | 2-Benzylsulfanyl-N-(4-methoxy-phenyl)-benzamide | C(C1=CC=CC=C1)SC1=C(C(=O)NC2=CC=C(C=C2)OC)C=CC=C1 | C21H19NO2S
